### ISSUE TITLE
`simp` not unifying partial application of structure projection

### ISSUE THREAD

**Issue by Vierkantor** [leanprover/lean4#1937]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

In the mathlib4 port, certain `simp` lemmas that would apply in Lean 3 no longer apply in Lean 4 in the same case. It looks like this happens whenever we have a `structure` containing a field with a function, and a `simp` lemma is defined on the partially applied function in that field. `simp` has no trouble with partial application if it's on other definitions.

### Steps to Reproduce

The following code contains two failing `simp` calls where `rw` succeeds. Equivalent code works fine in Lean 3.
```lean
structure BundledFunction (α β : Sort _) :=
(toFun : α → β)

namespace BundledFunction

-- `simp` doesn't seem to unify partial applications of structure projections:
-- https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/.60simp.60.20failing.20on.20partial.20application.20of.20projections
def id (α) : BundledFunction α α := ⟨λ a => a⟩

@[simp] theorem coe_id : (id α).toFun = _root_.id := rfl

example (x : α) : (id α).toFun x = x :=
by simp only [coe_id, id_eq] -- does not simplify anything
example (x : α) : (id α).toFun x = x :=
by rw [coe_id, id_eq] -- succeeds

-- seems to be another instance of the same behaviour:
-- https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/.60simp.60.20calls.20broken.20in.20mathlib4.23922/near/314790371

def otherProjection (f : BundledFunction α β) : α → β := f.toFun

@[simp] theorem toFun_eq_otherProjection : @toFun α β = otherProjection := rfl
@[simp] theorem id_apply : (id α).otherProjection x = x := rfl

example : (id α).toFun x = x := by simp only [toFun_eq_otherProjection, id_apply] -- does not simplify anything
example : (id α).toFun x = x := by rw [toFun_eq_otherProjection, id_apply] -- succeeds

end BundledFunction

-- `simp` is happy with partial applications in other functions:
def id2 (x : α) := x

@[simp] theorem id2_eq_id : @id2 α = id := rfl

example : id2 x = x := by simp only [id2_eq_id, id_eq] -- works fine
example : id2 x = x := by rw [id2_eq_id, id_eq] -- succeeds
```

**Expected behavior:** the `simp` calls on both lines marked `-- does not simplify anything` should solve the goal

**Actual behavior:** `simp` fails to rewrite. With `trace.Meta.Tactic.simp` on, the first `simp` call gives the following trace:
```lean
[Meta.Tactic.simp.unify] @BundledFunction.coe_id:1000, failed to unify
      (BundledFunction.id ?α).toFun
    with
      BundledFunction.toFun (BundledFunction.id α) x
```

**Reproduces how often:** always

### Versions

You can get this information from copy and pasting the output of `lean --version`,
please include the OS and what version of the OS you're running.

```bash
$ lean --version
Lean (version 4.0.0-nightly-2022-12-09, commit 57a6aefb9240, Release)
$ uname -a
Linux vouwvervorming 6.0.10-arch2-1 #1 SMP PREEMPT_DYNAMIC Sat, 26 Nov 2022 16:51:18 +0000 x86_64 GNU/Linux
```

**Comment by leodemoura** [comment]
The commit above adds support for projection functions to our indexing data structure.
Note that `@[simp] theorem toFun_eq_otherProjection : @toFun α β = otherProjection := rfl` must be written as
```lean
@[simp] theorem toFun_eq_otherProjection : a.toFun = otherProjection a := rfl
```
to ensure the LHS is represented using a `Expr.proj` object (kernel projection) in our indexing data structure (i.e., discrimination tree).
